US08809336B2
A suspension of ethyl(4,6-dichloropyrimidin-5-yl)amine (0.31 g, 1.61 mmol) and concentrated aqueous ammonia (10 mL) in ethanol (3 mL) was heated to 100° C. in a sealed tube for 16 hours. The solution was cooled and evaporated to dryness. The residue was partitioned between ethyl acetate (20 mL) and dilute brine (10 mL). The organic layer was dried, filtered and concentrated to give N5-ethyl-6-chloropyrimidine-4,5-diamine (0.214 g, 1.24 mmol, 77%) as a waxy solid. LC-MS (LCT2) m/z 173, 175 [M+H+], Rt 3.97.

reactant | ethyl(4,6-dichloropyrimidin-5-yl)amine | 1.61 mmol, 0.31 g | C(C)NC=1C(=NC=NC1Cl)Cl | C6H7Cl2N3
reactant | ammonia | 10 mL | N | H3N
solvent | ethanol | 3 mL | C(C)O | C2H6O
product | N5-ethyl-6-chloropyrimidine-4,5-diamine | 1.24 mmol, 0.214 g, 77% | C(C)NC=1C(=NC=NC1Cl)N | C6H9ClN4
